US04204071
To 1.36 g (10 mmol) of α-fluoro-β-methylstyrene in 20 ml of CCl4 is added 1.78 g (10 mmol) of N-bromosuccinimide and 50 g of dibenzoyl peroxide. The reaction is stirred overnight and then poured into hexane and water. The hexane layer is shaken against sat. NaCl solution and dried (Na2SO4). The product bromide after solvent removal is dissolved in 10 ml of THF and 10 ml of HMPT, and 1.96 g (40 mmol) of sodium cyanide is added. The reaction is warmed to 60° and after 24 hours poured into ether/hexane (2:8) and water. The organic phase is washed several times with water, dried, and solvent removed to give 4-fluoro-4-phenyl-3-butenonitrile.

reactant | α-fluoro-β-methylstyrene | 10 mmol, 1.36 g | FC(=CC)C1=CC=CC=C1 | C9H9F
reactant | N-bromosuccinimide | 10 mmol, 1.78 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | 50 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | NaCl | [Na+].[Cl-]
reactant | sodium cyanide | 40 mmol, 1.96 g | [C-]#N.[Na+]
solvent | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | HMPT | 10 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | water | O | H2O
solvent | ether hexane | CCOCC.CCCCCC
solvent | hexane | CCCCCC | C6H14
product | 4-fluoro-4-phenyl-3-butenonitrile | FC(=CCC#N)C1=CC=CC=C1 | C10H8FN
